US04710500
1-(4'-Fluorophenyl)-3-(4-methylpiperazio)-5-trifluoromethyl-1H-indole, dihydrochloride.
2-Carboxymethyl-1-(4'-fluorophenyl)-5-trifluoromethylindolin-3-on (15 g) and MgCl2. 6H2O (30 g) in HMPA (100 ml) were heated under N2 at 120°-140° C. for 1 h and finally at 150° C. for another 1/2 h. 1-Methylpiperazin (25 ml) was added and the mixture was refluxed under N2 at an oil bath temperature of 200° C. for 16 h. The mixture was cooled and poured into 1 ltr. of H2O and extracted with ether (3×200 ml). The combined ether extracts were washed with 0.5 M HCl (3×300 ml). The acidic H2O phase was made alkaline and reextracted with ether (2×200 ml). The combined organic phase was dried (MgSO4) and the ether evaporated. The remaining oil was dissolved in acetone and the title compound precipitated as a dihydrochloride. Yield: 6.7 g (35%). M.p. 245°- 247° C.

reactant | 2-Carboxymethyl-1-(4'-fluorophenyl)-5-trifluoromethylindolin-3-on | 15 g | C(=O)(O)CC1N(C2=CC=C(C=C2C1=O)C(F)(F)F)C1=CC=C(C=C1)F | C17H11F4NO3
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
reactant | 1-Methylpiperazin | 25 ml | CN1CCNCC1 | C5H12N2
solvent | HMPA | 100 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 1-(4'-Fluorophenyl)-3-(4-methylpiperazio)-5-trifluoromethyl-1H-indole, dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)C(F)(F)F)[NH+]1CCN(CC1)C | InChI=1S/C20H19F4N3.2ClH/c1-25-8-10-26(11-9-25)19-13-27(16-5-3-15(21)4-6-16)18-7-2-14(12-17(18)19)20(22,23)24;;/h2-7,12-13H,8-11H2,1H3;2*1H/p+1
